Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Fall
Right flank pain
Right wrist pain
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
This patient is a ___ year old male who complains of s/p Fall. 
The patient fell 12 feet off the side of her roof. He landed on 
grass. He landed onto his right side. He is complaining of right 
lateral rib pain. There was no loss of consciousness. He denies 
head strike. He does have right hand, finger lacerations.
 
Past Medical History:
Past Medical History: Right shoulder injury
 
Family History:
Tobacco: Current; cigars PPD.
Alcohol: Yes.
Recreational Drugs: None.
Denies Drugs. Positive for
Alcohol and Smoking.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION 
HR: 83 BP: 151/95 Resp: 16 O(2)Sat: 94
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact occipital
hematoma
Neck is nontender
Chest: Clear to auscultation right chest wall tenderness
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: Right second and third finger distal tuft
lacerations with skin loss. Back: Nontender
Extremities: Nontender, no evidence of trauma. Neurovascular
intact. Normal pulses.
Pelvis: Stable.
Neuro: Speech fluent A/O X 3

DISCHARGE PHYSICAL EXAM:
VS:98.6 PO 115 / 73 L Lying 74 18 92 ra 
GEN: Awake, alert, pleasant and interactive.
CV:RRR
PULM: Clear bilaterally. Tender to palpation right chest wall.
ABD: Soft, non-tender, non-distended. Active bowel sounds
EXT: Warm and dry. no edema. RUE- in splint. 

 
 
Pertinent Results:
___ 07:16AM BLOOD WBC-7.9 RBC-4.57* Hgb-14.5 Hct-44.1 
MCV-97 MCH-31.7 MCHC-32.9 RDW-13.2 RDWSD-47.5* Plt ___
___ 03:04PM BLOOD WBC-7.8 RBC-4.56* Hgb-14.4 Hct-43.6 
MCV-96 MCH-31.6 MCHC-33.0 RDW-13.1 RDWSD-46.1 Plt ___
___ 07:16AM BLOOD Glucose-93 UreaN-20 Creat-0.8 Na-138 
K-4.8 Cl-102 HCO3-23 AnGap-13
___ 05:15PM BLOOD Glucose-94 UreaN-23* Creat-0.8 Na-137 
K-4.5 Cl-99 HCO3-26 AnGap-12
___ 07:16AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.1
___ 05:15PM BLOOD Calcium-8.9 Phos-3.9 Mg-2.1
___ 03:11PM BLOOD Glucose-116* Lactate-1.5 Creat-0.9 Na-142 
K-3.6 Cl-108 calHCO3-24
___ 03:07AM URINE Color-Yellow Appear-Clear Sp ___
___ 03:07AM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:07AM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:07AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Radiology: 

___ Femur X-ray: No fracture of the left femur.

___ Hand X-ray: Acute intra-articular fracture of the distal 
radius involving the radial styloid. 

___ Ankle/foot X-ray: 1. No acute fracture of the left 
ankle/foot and the left tibia/fibula. 2. Mild soft tissue 
swelling overlying the left ankle. 

___ Tib/fib X-ray: No fracture.There is mild soft tissue 
thickening in the medial anterior aspect of the proximal tibia, 
correlate clinically. 

___ CT chest/ABD/pelvis: 1. Acute, minimally to moderately 
displaced fractures of the right fourth, fifth, sixth, tenth and 
eleventh ribs, as detailed above. 2. Right inguinal hernia 
containing a small portion of the urinary bladder. Fat 
containing left inguinal and umbilical hernias. 

___ CT spine: No fracture or traumatic malalignment.

___ CT head: 1. No acute intracranial process or fracture. 2. 
Paranasal sinus disease. 

___ CXR:   
No acute findings. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presented to the Emergency 
Department after a reported fall from ladder landing on the 
grass on his right side. The patient denies head strike or loss 
of consciousness. FAST exam was negative. He underwent CT head, 
neck, torso that showed multiple right rib fractures. A right 
upper extremity xray was obtained that showed a right distal 
radius fracture. Hand surgery was consulted. The patient was 
admitted to the trauma service for pain control and hemodynamic 
monitoring. 

Pain was controlled with oral acetaminophen, ibuprofen, and 
oxycodone. He remained stable from a cardiopulmonary standpoint. 
Vital signs were routinely monitored. He tolerated a regular 
diet without difficulty and voided spontaneously. Right upper 
extremity was placed in a splint by hand surgery. He was kept 
non-weight bearing on the right upper extremity. The patient was 
seen and evaluated by OT and cleared for discharge home. 

On HD2, the patient was doing well, afebrile and hemodynamically 
stable. The patient was tolerating a diet, ambulating, voiding 
without assistance, and pain was well controlled. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
Omeprazole 20 mg daily 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
Take with food.  
RX *ibuprofen 200 mg 3 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QPM right sided rib fx's 
Okay for 4% over the counter dose if this is not covered by 
insurance.  
RX *lidocaine 5 % apply to rib fracture pain 12 hours on; 12 
hours off Disp #*14 Patch Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Take lowest effective dose. Wean as tolerated.  
RX *oxycodone 5 mg ___ tablet(s) by mouth Every ___ hours Disp 
#*30 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
Available over the counter.  
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
Available over the counter.   
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Acute intra-articular fracture of the right distal radius 
involving the radial styloid. 
-Acute, minimally to moderately displaced fractures of the right 
fourth, fifth, sixth, tenth and eleventh ribs 

SECONDARY DIAGNOSIS:
-Right inguinal hernia containing a small portion of the urinary 
bladder.  
-Fat containing left inguinal and umbilical hernias 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after you fell and sustained 
multiple injuries including right-sided rib fractures and right 
wrist fracture. Your rib fractures will heal on their own over 
time. The orthopedic surgery team assessed you for your wrist 
fracture and recommend no surgical intervention oat this time 
and splinted your wrist. You will be evaluated in the outpatient 
hand clinic to determine if you need future surgery. Continue to 
not put any weight on this wrist and elevate above the level of 
your heart on pillows when able. Your pain has been controlled 
on oral pain medications and you are tolerating a regular diet 
and ambulating. You are now ready to go home to continue your 
recovery. 

Please follow the discharge instructions below:

* Your injury caused 5 rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 10 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain (ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___